US07943669B2
Step A: {2-Chloro-4-[3-(4-chloro-phenylethynyl)-5-(3-piperidin-1-yl-propoxy)-phenylsulfanyl]-phenoxy}-acetic Acid Ethyl Ester
[{2-Chloro-4-[3-(4-chloro-phenylethynyl)-5-hydroxy-phenylsulfanyl]-phenoxy}-acetic acid ethyl ester (0.4 g; 0.85 mmol), 3-piperidin-1-yl-propan-1-ol (0.12 g; 0.85 mmol) and tributylphosphine (0.37 mL; 1.5 mmol) were dissolved in THF (50 mL) in a dried reaction flask under an atmosphere of nitrogen. 1,1′-(Azodicarbonyl)dipiperidine (0.38 g; 1.5 mmol) dissolved in THF (25 mL) was added to the reaction mixture, which was stirred at room temperature for 16 h. The reaction mixture was evaporated to dryness and 5% aqueous citric acid and ethyl acetate was added. The organic phase was separated, dried, evaporated to dryness, and purified by prep HPLC (method A). Yield: 275 mg. HPLC-MS: m/z: 598.0 (M+); Rt: 2.3 min.

reactant | {2-Chloro-4-[3-(4-chloro-phenylethynyl)-5-hydroxy-phenylsulfanyl]-phenoxy}-acetic acid ethyl ester | 0.85 mmol, 0.4 g | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)O)C#CC1=CC=C(C=C1)Cl)Cl)=O | C24H18Cl2O4S
reactant | 3-piperidin-1-yl-propan-1-ol | 0.85 mmol, 0.12 g | N1(CCCCC1)CCCO | C8H17NO
reactant | tributylphosphine | 1.5 mmol, 0.37 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(Azodicarbonyl)dipiperidine | 1.5 mmol, 0.38 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | {2-Chloro-4-[3-(4-chloro-phenylethynyl)-5-(3-piperidin-1-yl-propoxy)-phenylsulfanyl]-phenoxy}-acetic Acid Ethyl Ester | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)OCCCN1CCCCC1)C#CC1=CC=C(C=C1)Cl)Cl)=O | C32H33Cl2NO4S
